US08686628B2
Step 1: Synthesis method of 3-[N-(1-naphthyl)amino]-9-phenylcarbazole (abbreviation: PCN)
Under nitrogen, 12 mL of dehydration xylene was added to a mixture of 3.7 g (10 mmol) of 3-iodo-9-phenylcarbazole, 1.6 g (5 mmol) of 1-aminonaphthalen, 60 mg (0.1 mmol) of bis(dibenzylideneacetone)palladium(0), 200 μL (0.5 mmol) of tri(t-butyl)phosphine (49 wt % hexane solution), 3 g (30 mmol) of t-butoxysodium (abbreviation: t-BuONa). This was stirred while heating at 90° C. under a nitrogen atmosphere for 7 hours. After the termination of the reaction, this suspension was added with about 200 mL of hot toluene and was filtered through florisil®, alumina, and celite. The obtained filtrate was concentrated and this residue was separated by silica gel column chromatography (toluene:hexane=1:1). When an obtained solid was recrystallized with a mixture of ethyl acetate and hexane, 1.5 g of 3-[N-(1-naphthyl)amino]-9-phenylcarbazole (PCN) that was a target substance and was cream-colored powder was obtained in a yield of 79% (Synthesis Scheme (g-1)).

reactant | 3-iodo-9-phenylcarbazole | 10 mmol, 3.7 g | IC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C18H12IN
reactant | 1-aminonaphthalen | 5 mmol, 1.6 g | NC1=CC=CC2=CC=CC=C12 | C10H9N
reactant | tri(t-butyl)phosphine | 0.5 mmol, 200 μL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | t-butoxysodium | 30 mmol, 3 g | C(C)(C)(C)O[Na]
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.1 mmol, 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | about 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[N-(1-naphthyl)amino]-9-phenylcarbazole | yield of 79% | C1(=CC=CC2=CC=CC=C12)NC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C28H20N2
